US06492378B1
3,3-Dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline
Sodium borohydride (1.57 g; 41.38 mmol) was added portionwise to a solution of 3,4-dihydro-3,3-dimethyl-7-nitroisoquinoline (4.22 g; 20.69 mmol) in methanol (150 ml). The resultant solution was stirred at 25° C. for 2 h. The methanol was evaporated in vacuo and the residue partitioned between water and dichloromethane. The organic layer was dried over sodium sulphate and then evaporated in vacuo to afford the title compound (3.81 g).

reactant | Sodium borohydride | 41.38 mmol, 1.57 g | [BH4-].[Na+]
reactant | 3,4-dihydro-3,3-dimethyl-7-nitroisoquinoline | 20.69 mmol, 4.22 g | CC1(N=CC2=CC(=CC=C2C1)[N+](=O)[O-])C | C11H12N2O2
solvent | methanol | 150 ml | CO | CH4O
product | 3,3-Dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 3.81 g | CC1(NCC2=CC(=CC=C2C1)[N+](=O)[O-])C | C11H14N2O2
